US07074798B2
b) [7-Benzyl-1-(2-phenylethyl)-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]acetic acid ethyl ester
A mixture of (7-benzyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl)acetic acid ethyl ester (300 mg), anhydrous potassium carbonate (250 mg), 2-bromoethylbenzene (0.25 ml), and N,N-dimethylformamide (5 ml) was stirred with heating in an oil bath of 50° C. for 2 hours. The reaction mixture was diluted with ethyl acetate and water, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography using 10–20% (20% 2-propanol/ethyl acetate)/hexane to give 366 mg of the title compound.

reactant | (7-benzyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl)acetic acid ethyl ester | 300 mg | C(C)OC(CN1C(NC(C=2N(C=NC12)CC1=CC=CC=C1)=O)=O)=O | C16H16N4O4
reactant | potassium carbonate | 250 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethylbenzene | 0.25 ml | BrCCC1=CC=CC=C1 | C8H9Br
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | [7-Benzyl-1-(2-phenylethyl)-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]acetic acid ethyl ester | 366 mg | C(C)OC(CN1C(N(C(C=2N(C=NC12)CC1=CC=CC=C1)=O)CCC1=CC=CC=C1)=O)=O | C24H24N4O4
